US08252817B2
(5-Bromopyridin-3-yl)acetic acid ethyl ester
1.00 g (4.63 mmol) (5-bromopyridin-3-yl)acetic acid are initially introduced into 20 ml ethanol, 2 ml conc. sulfuric acid are added and the mixture is stirred under reflux overnight. The reaction solution is introduced on to a mixture of 100 ml saturated sodium bicarbonate solution and 100 ml ethyl acetate, while stirring, and the aqueous phase is extracted with ethyl acetate (three times with 50 ml each time). The combined organic phases are dried over sodium sulfate, filtered and concentrated and the residue is freed from solvent residues overnight in vacuo.

reactant | (5-bromopyridin-3-yl)acetic acid | 4.63 mmol, 1.00 g | BrC=1C=C(C=NC1)CC(=O)O | C7H6BrNO2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (5-Bromopyridin-3-yl)acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
